US08912208B2
4-{4-[2-(3-Chloro-phenylamino)-oxazol-5-yl]-phenyl}-3,6-dihydro-2H-pyridine-1-sulfonic acid amide
The title compound is prepared from (3-chlorophenyl)-{5-[4-(1,2,3,6-tetrahydro-pyridin-4-yl)-phenyl]-oxazol-2-yl}-amine bis HCl salt in analogous fashion using N-Boc chlorosulfonamide followed by TFA-mediated deprotection: 1H NMR (400 MHz, DMSO-d6) 2.55 (br. s., 2 H) 3.15 (t, J=5.56 Hz, 2 H) 3.65 (d, J=2.78 Hz, 2 H) 6.22 (t, J=3.28 Hz, 1 H) 6.92 (dd, J=7.83, 1.52 Hz, 1 H) 7.26 (t, J=8.08 Hz, 1 H) 7.39-7.53 (m, 7 H) 7.79 (t, J=2.02 Hz, 1 H); (M+H)+ 431.1.

reactant | (3-chlorophenyl)-{5-[4-(1,2,3,6-tetrahydro-pyridin-4-yl)-phenyl]-oxazol-2-yl}-amine bis HCl salt | Cl.Cl.ClC=1C=C(C=CC1)NC=1OC(=CN1)C1=CC=C(C=C1)C=1CCNCC1
reactant | N-Boc chlorosulfonamide | C(=O)(OC(C)(C)C)NS(=O)(=O)Cl | C5H10ClNO4S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-{4-[2-(3-Chloro-phenylamino)-oxazol-5-yl]-phenyl}-3,6-dihydro-2H-pyridine-1-sulfonic acid amide | ClC=1C=C(C=CC1)NC=1OC(=CN1)C1=CC=C(C=C1)C=1CCN(CC1)S(=O)(=O)N | C20H19ClN4O3S
